US04027027
A solution of 22.6 g of crude 1-{N-benzyl-N-[2-(5-carbamoyl-2-pyridyloxy)-ethyl]-amino}-3-(2-methyl-phenyloxy)-2-propanol in 230 ml of dioxane is hydrogenated in the presence of 2.3 g of a palladium-on-charcoal catalyst (5% strength) at 20°-30° C. and under atmospheric pressure, until an equimolar amount of hydrogen has been taken up. The catalyst is filtered off and the filtrate is evaporated under reduced pressure. The residue is recrystallised from ethyl methyl ketone and gives 1-[2-(5-carbamoyl-2-pyridyloxy)-ethylamino]-3-(2-methyl-phenyloxy)-2-propanol, melting point 139°-141° C.

reactant | 1-{N-benzyl-N-[2-(5-carbamoyl-2-pyridyloxy)-ethyl]-amino}-3-(2-methyl-phenyloxy)-2-propanol | 22.6 g | C(C1=CC=CC=C1)N(CCOC1=NC=C(C=C1)C(N)=O)CC(COC1=C(C=CC=C1)C)O | C25H29N3O4
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 230 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-on-charcoal | 2.3 g | [Pd] | Pd
product | 1-[2-(5-carbamoyl-2-pyridyloxy)-ethylamino]-3-(2-methyl-phenyloxy)-2-propanol | C(N)(=O)C=1C=CC(=NC1)OCCNCC(COC1=C(C=CC=C1)C)O | C18H23N3O4
